US05145865
(3) 1-(4-Tolyl)-4-hydroxymethyl-2-pyrrolidone
Methyl 1-(4-tolyl)-5-oxo-3-pyrrolidinecarboxylate (46.00 g) and sodium boron hydride (5.94 g) are suspended in tetrahydrofuran (460 ml) and to the mixture is added dropwise methanol (46.2 ml) over a period of 1 hour under refluxing. The mixture is further heated for 1 hour. After cooling the reaction mixture, conc. hydrochloric acid (13.7 ml) and water (about 5 ml) are added thereto and then the mixture is concentrated under reduced pressure. Methylene chloride (400 ml) is added to the residue and the insoluble material is removed by filtration. The filtrate is washed with water (about 100 ml). The organic layer is dried over anhydrous magnesium sulfate and concentrated under reduced pressure to give the desired product (39.80 g) as solid.

reactant | Methyl 1-(4-tolyl)-5-oxo-3-pyrrolidinecarboxylate | 46.00 g | C1(=CC=C(C=C1)N1CC(CC1=O)C(=O)OC)C | C13H15NO3
reactant | sodium boron hydride | 5.94 g | B.[Na]
reactant | methanol | 46.2 ml | CO | CH4O
reactant | hydrochloric acid | 13.7 ml | Cl | ClH
solvent | tetrahydrofuran | 460 ml | O1CCCC1 | C4H8O
solvent | water | about 5 ml | O | H2O
product | 1-(4-Tolyl)-4-hydroxymethyl-2-pyrrolidone | 39.80 g | C1(=CC=C(C=C1)N1C(CC(C1)CO)=O)C | C12H15NO2
